US07550598B2
((Z)—N-(4-(2-(3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)methanesulfonamide
The title compound was prepared from (Z)-tert-butyl 4-(4-aminophenylthio)-2-(1-(tert-butoxycarbonyl)-3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)quinoline-1 (2H)-carboxylate and methanesulfonyl chloride according to the procedure described in Example 21. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.34 (s, 3H) 3.09 (s, 3H) 6.69 (s, 1H) 7.44 (d, J=8.59 Hz, 2H) 7.63 (t, J=7.58 Hz, 1H) 7.72 (d, J=8.59 Hz, 2H) 7.83-7.94 (m, 2H) 8.13 (d, J=8.34 Hz, 1H) 10.40 (s, 1H); ESI-MS: m/z calc'd for C20H18N4O3S2 426.08. found 427.3 (M+H)+.

reactant | (Z)-tert-butyl 4-(4-aminophenylthio)-2-(1-(tert-butoxycarbonyl)-3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)quinoline-1 (2H)-carboxylate | NC1=CC=C(C=C1)SC1=C/C(/N(C2=CC=CC=C12)C(=O)OC(C)(C)C)=C/1\C(=NN(C1=O)C(=O)OC(C)(C)C)C | C29H32N4O5S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | (Z)—N-(4-(2-(3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)methanesulfonamide | CC/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NS(=O)(=O)C)=O | C20H18N4O3S2
